US05831045
3-Aminophenylboronic acid succinamic acid (PBA-X-CO2H).
Synthesis of this material was accomplished using a modification of the procedure in Weith, et al. Biochemistry 9:4396-4401 (1970). 3-Amino-phenylboronic acid hemisulfate (100 g, 0.535 moles) was suspended in anhydrous pyridine (240 mL). The mixture was stirred magnetically and chilled in an ice/water bath under an atmosphere of dry nitrogen. Succinic anhydride (56.5 g, 0.565 moles) was added to the flask, and the reaction mixture was allowed to warm to room temperature. After stirring overnight (at least 12 hours), all solids had dissolved. The majority of the pyridine was removed on a rotary evaporator (bath temperature ≤55° C.) to give a viscous, amber-colored syrup. The syrup was co-evaporated with water (100 mL), and the residue was then dissolved in water (700 mL). The amber solution was chilled in an ice-water bath, and concentrated hydrochloric acid (30-50 mL) was added slowly to yield a final pH of 1 (pH paper). During this addition, a white solid precipitated. The suspension was chilled for 1 hour at 4° C. The solid was filtered and washed with cold water (100 mL). The solid was then crystallized from hot water, and dried in vacuo over KOH pellets. Yield: 100 g (80%); m.p. 171°-172° C. (open capillary, uncorrected). 1H NMR (300 MHz, DMSO-d6): δ 12.07 (broad singlet, 1H, CO2H), 9.83 (singlet, 1H, ArNHCOR), 7.95 (singlet, 2H, BOH), 7.67 (singlet, 1H, ArH), 7.65 (doublet, J=7.9 Hz, 1H, ArH), 7.41 (doublet, J=7.0 Hz, 1H, ArH), 7.20 (apparent triplet, J=7.8 Hz, 1H, ArH), 2.60-2.40 (multiplet, 4H, COCH2). 13C NMR (75.5 MHz, DMSO-d6) δ 174.2, 170.2, 138.7, 129.0, 127.8, 125.2, 121.2, 31.0, 28.9. HPLC: Retention time of product, 8.6±0.1 minutes using an Applied Biosystems/Brownlee Aquapore Butyl 2.1×220 mm cartridge, and a mixed gradient elution as follows: A, 0.1M triethylammonium acetate, pH 6.5; B, methanol at a flow rate of 0.5 mL/minute beginning with 100% A/0% B, for 5 minutes, then to 0% A/100% B over 30 minutes at ambient temperature. Detection was carried out using a diode array detector: 260 nm, 280 nm, 300 nm. The sample amount was 5 mg/mL in methanol.

reactant | 3-Amino-phenylboronic acid hemisulfate | 0.535 moles, 100 g | S(=O)(=O)(O)O.NC=1C=C(C=CC1)B(O)O.NC=1C=C(C=CC1)B(O)O
reactant | Succinic anhydride | 0.565 moles, 56.5 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | hydrochloric acid | 30-50 mL | Cl | ClH
solvent | pyridine | 240 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 700 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 3-Aminophenylboronic acid succinamic acid | C(CCC(=O)N)(=O)O.NC=1C=C(C=CC1)B(O)O | InChI=1S/C6H8BNO2.C4H7NO3/c8-6-3-1-2-5(4-6)7(9)10;5-3(6)1-2-4(7)8/h1-4,9-10H,8H2;1-2H2,(H2,5,6)(H,7,8)
